US06541638B2
243 mg (4.5 mmol) (S)-3-(1H-Indol-3-yl)-2-[[(2S,4S)-4-mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carbonyl]-amino]-propionic acid methyl ester in 13.5 ml THF were treated 22.5 ml 0.1M LiOH in the presence of 209 mg (13.5 mmol) DTT at RT for 72h. The solution was acidified with 1MKHSO4KHS04 and the inorganic phase was extracted with EtOAc. The combined organic phases were washed with brine and were dried with Na2SO4. Column chromatography with CH2Cl2:MeOH 9:1, followed by trituration with hexane yielded 204 mg (86%) (S)-3-(1H-Indol-3-yl)-2-[[(2S,4S)-4-mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carbonyl]-amino]-propionic acid as white solid, mp 130° C., MS: 522 (M-H)−.

reactant | (S)-3-(1H-Indol-3-yl)-2-[[(2S,4S)-4-mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carbonyl]-amino]-propionic acid methyl ester | 4.5 mmol, 243 mg | COC([C@H](CC1=CNC2=CC=CC=C12)NC(=O)[C@H]1N(C[C@H](C1)S)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O | C27H27N3O5S2
reactant | LiOH | 0.1M, 22.5 ml | [Li+].[OH-]
reactant | DTT | 13.5 mmol, 209 mg | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
solvent | THF | 13.5 ml | C1CCOC1 | C4H8O
product | (S)-3-(1H-Indol-3-yl)-2-[[(2S,4S)-4-mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carbonyl]-amino]-propionic acid | 204 mg, 86% | N1C=C(C2=CC=CC=C12)C[C@@H](C(=O)O)NC(=O)[C@H]1N(C[C@H](C1)S)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C26H25N3O5S2
